US04820705
6-(2-amino-indan-5-yl)-4,5-dihydro-pyridazin-3(2H)-one
8.5 g (0.17 mol) of 99% hydrazine hydrate are added to 10.0 g (0.035 mol) of methyl 4-(2-amino-indan-5-yl)-4-oxobutyrate hydrochloride in glacial acetic acid and the mixture is boiled for 30 minutes. The mixture is evaporated in vacuo, the residue is dissolved in water and the reaction product is precipitated by neutralisation with sodium hydroxide.

reactant | hydrazine hydrate | 0.17 mol, 8.5 g | O.NN
reactant | methyl 4-(2-amino-indan-5-yl)-4-oxobutyrate hydrochloride | 0.035 mol, 10.0 g | Cl.NC1CC2=CC=C(C=C2C1)C(CCC(=O)OC)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(2-amino-indan-5-yl)-4,5-dihydro-pyridazin-3(2H)-one | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C13H15N3O
